US07994423B2
In the course of the synthesis of hexaazatristriphenylene HATT (also referred to as “Mickey-Mouse” HATNA), BK3—31, a different product was observed, Scheme 2. The three-fold condensation of hexaketocyclohexane octahydrate SM4 with 9,10-diaminophenanthrene SM7 in acetic acid/ethanol under air resulted in an orange solid phenanthrazine BK2—97E, which was sublimed under high vacuum. Phenanthrazine was confirmed by 1H NMR and E1 mass analysis. In this regard, 9,10-diaminophenanthrene SM7 may have been partially oxidized to phenanthrene-9,10-dione SM34 under air. The double bond (9=10) in 9,10-diaminophenanthrene SM7 behaves more like a single double bond rather than one in an aromatic system, i.e. it can be oxidized more easily. Condensation of SM7 and SM34 led to BK2—97E. To give evidence for the proposed mechanism, two control experiments were performed. 9,10-diaminophenanthrene SM7 was refluxed in acetic acid/ethanol for 24 hours. E1 mass analysis showed the presence of phenanthrazine, BK3—29. Hexaazatristriphenylene HATT, BK3—31 was obtained when the condensation was performed in acetic acid under nitrogen (MALDI TOF measurement confirmed the presence of HATT).

reactant | hexaketocyclohexane octahydrate | O.O.O.O.O.O.O.O.O=C1C(C(C(C(C1=O)=O)=O)=O)=O
reactant | 9,10-diaminophenanthrene | NC=1C2=CC=CC=C2C=2C=CC=CC2C1N | C14H12N2
solvent | acetic acid ethanol | C(C)(=O)O.C(C)O
product | phenanthrazine | C1=CC=CC=2C3=CC=CC=C3C3=NC=4C5=CC=CC=C5C5=CC=CC=C5C4N=C3C12 | C28H16N2
